US09399623B2
6-Chloro-2-((R)-3-methylamino-pyrrolidin-1-yl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide (100)
The title compound was synthesized according to the procedure described in example 1 using 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide, DIPEA and (R)-3-methylaminopyrrolidine. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.75 (1H), 7.48 (2H), 6.69 (1H), 3.66 (m, 2H), 3.49 (m, 2H), 3.32 (m, 2H), 2.36 (s, 3H), 2.06 (m, 2H), 1.85 (m, 2H), 1.74-1.76 (m, 5H), 1.27-1.30 (m, 2H). m/z: 437 [M+H]

reactant | 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl)F | C17H16Cl2F2N2O
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | (R)-3-methylaminopyrrolidine | CN[C@H]1CNCC1 | C5H12N2
product | 6-Chloro-2-((R)-3-methylamino-pyrrolidin-1-yl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)N1C[C@@H](CC1)NC)F | C22H27ClF2N4O
